US07851626B2
4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-1-[4-(3-methanesulfonyl-propyl)-piperazine-1-carbonyl]-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl}-N-tert-butyl-3-ethoxy-benzenesulfonamide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butylsulfamoyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride (prepared as described in Fotouhi, N. et al. WO 2005110996) to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 35% methanol in carbon dioxide). HR-MS (ES, m/z) calculated for C38H49N5O6S2Cl2 [(M+H)+] 806.2574, observed 806.2579.

reactant | rac-(4S*,5R*)-2-(4-tert-butylsulfamoyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)Cl)OCC | C30H32Cl3N3O4S
reactant | 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride | Cl.Cl.CS(=O)(=O)CCCN1CCNCC1
product | 4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-1-[4-(3-methanesulfonyl-propyl)-piperazine-1-carbonyl]-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl}-N-tert-butyl-3-ethoxy-benzenesulfonamide | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCCS(=O)(=O)C)C1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)OCC)C | C38H49Cl2N5O6S2
